US05283244
In 20 ml of sulfuric acid was dissolved 1.34 g of 7-fluoro-1-hydroxyquinoxaline-2,3-(1H,4H)-dione followed by addition of 0.76 g of potassium nitrate under ice-cooling. The mixture was cooled to at room temperature, and after 1 hour, the reaction mixture was poured in ice-water. The resulting crystals were recovered by filtration, rinsed with water and recrystallized from ethanol-water to provide 0.82 g (50%) of 7-fluoro-1-hydroxy-6-nitroquinoxaline-2,3-(1H,4H)-dione.

reactant | 7-fluoro-1-hydroxyquinoxaline-2,3-(1H,4H)-dione | 1.34 g | FC1=CC=C2NC(C(N(C2=C1)O)=O)=O | C8H5FN2O3
reactant | potassium nitrate | 0.76 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 7-fluoro-1-hydroxy-6-nitroquinoxaline-2,3-(1H,4H)-dione | 0.82 g, 50% | FC1=C(C=C2NC(C(N(C2=C1)O)=O)=O)[N+](=O)[O-] | C8H4FN3O5
